US04874775
N-(4-cyanophenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide
A 4.2 g. portion of 3-(4-cyanophenylaminomethyl)pyridine was dissolved in 25 ml. of dichloromethane, and 4.1 g. of potassium carbonate and 2.4 ml. of methanesulfonyl chloride were added. The mixture was stirred at ambient temperature for 4 days, and was then diluted with 30 ml. of dichloromethane. It was then extracted with 20 ml. of water, dried over magnesium sulfate, and evaporated to an oily residue. The residue was applied to a silica gel column and eluted with dichloromethane. The product-containing fractions were combined and evaporated, and the residue was triturated with diethyl ether to obtain 1 g. of the desired product, m.p. 73°-75°.

reactant | 3-(4-cyanophenylaminomethyl)pyridine | C(#N)C1=CC=C(C=C1)NCC=1C=NC=CC1 | C13H11N3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-cyanophenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide | C(#N)C1=CC=C(C=C1)N(S(=O)(=O)C)CC=1C=NC=CC1 | C14H13N3O2S
